US06774082B2
To 10.5 g of N,N′-dimethylethylenediamine in 250 ml of THF was added 26 g of tosylchloride (TsCl) in small portions at room temperature. After 16 hours, solvents were evaporated and the residue was apportioned between H2O and CH2Cl2. A CH2C2 layer was separated and washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure. About 26.5 g of N,N-dimethyl-N′-tosylethylenediamine (93%) was produced. The reaction steps are shown below:

reactant | N,N′-dimethylethylenediamine | 10.5 g | CNCCNC | C4H12N2
reactant | tosylchloride | 26 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | THF | 250 ml | C1CCOC1 | C4H8O
product | N,N-dimethyl-N′-tosylethylenediamine | 26.5 g, 93% | CN(CCNS(=O)(=O)C1=CC=C(C)C=C1)C | C11H18N2O2S
